US08309546B2
4-{2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-8-yl}piperazine-1-carboaldehyde
A tetrahydrofuran (3 ml) solution of 5-{9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine (103 mg, 0.23 mmol) and 1H-benzotriazole-1-carboaldehyde (37 mg, 0.25 mmol) was stirred at room temperature for 16 hours. Chloroform and 2 N aqueous sodium hydroxide solution were added to the reaction mixture and the resulting mixture was extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and, after filtration, the filtrate was concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography (methylene chloride:methanol=95:5) to give a solid. Ether was added to the resulting solid and the solid was collected by filtration and dried to give the title compound (86 mg, 79%) as a powder.

reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | 5-{9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.23 mmol, 103 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1[C@H](COCC1)C)C=1C=NC(=NC1)N | C22H32N10O
reactant | 1H-benzotriazole-1-carboaldehyde | 0.25 mmol, 37 mg | N1(N=NC2=C1C=CC=C2)C=O | C7H5N3O
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | Ether | CCOCC | C4H10O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-{2-(2-Aminopyrimidin-5-yl)-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-8-yl}piperazine-1-carboaldehyde | 86 mg, 79% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(C)C)N1CCN(CC1)C=O)N1[C@H](COCC1)C | C23H32N10O2
